US09024027B2
To a solution of tert-butyl 2-(5-methoxy-2,3-dioxoindolin-1-yl)acetate (0.65 g, 2.231 mmol) in DCM (20 ml), TFA (2.58 ml, 33.5 mmol) was added. The reaction was stirred at room temperature for 72 hours, then the solvent was evaporated to dryness affording 2-(5-methoxy-2,3-dioxoindolin-1-yl)acetic acid that was used in the next step without further purification (0.48 g, 2.041 mmol, 91% yield). MS/ESI+ 235.9 [MH]+

reactant | tert-butyl 2-(5-methoxy-2,3-dioxoindolin-1-yl)acetate | 2.231 mmol, 0.65 g | COC=1C=C2C(C(N(C2=CC1)CC(=O)OC(C)(C)C)=O)=O | C15H17NO5
reactant | TFA | 33.5 mmol, 2.58 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(5-methoxy-2,3-dioxoindolin-1-yl)acetic acid | 91% yield | COC=1C=C2C(C(N(C2=CC1)CC(=O)O)=O)=O | C11H9NO5
